US05166188
Methyl (E)-4-{4-((1-methylthio-2-nitroethen-1-yl)amino)phenyl}-3-butenoate
7.00 g of methyl (E)-4-(4-aminophenyl)-3-butenoate was dissolved in 120 ml of n-propanol, followed by the addition of 30.28 g of 1,1-bis-(methylthio)-2-nitroethylene. The obtained mixture was heated under reflux for 3 hours and distilled to remove the solvent. The residue was purified by silica gel column chromatography (solvent: dichloromethane). The obtained solid was washed with ethyl ether to obtain 9.65 g of the title compound as a yellow powder (yield: 86%).

reactant | methyl (E)-4-(4-aminophenyl)-3-butenoate | 7.00 g | NC1=CC=C(C=C1)/C=C/CC(=O)OC | C11H13NO2
reactant | 1,1-bis-(methylthio)-2-nitroethylene | 30.28 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
solvent | n-propanol | 120 ml | C(CC)O | C3H8O
product | Methyl (E)-4-{4-((1-methylthio-2-nitroethen-1-yl)amino)phenyl}-3-butenoate | 9.65 g, yield: 86% | CSC(=C[N+](=O)[O-])NC1=CC=C(C=C1)/C=C/CC(=O)OC | C14H16N2O4S
